US04007203
4-(1-Pyrrolidinyl)-2H-1-benzothiopyran 1,1-Dioxide.
A mixture of 9.8 g. (0.05 mole) of thiochroman-4-one 1,1-dioxide, 5.3 g. (0.075 mole) of pyrrolidine, and 150 ml. of benzene was placed in a flask equipped with a Dean-Stark water separator and was refluxed for 4 hr. The precipitate (4.9 g.) which separated on standing at room temperature was collected. Concentration to one-fourth the original volume gave an additional 5.0 g. These crops were combined and recrystallized from benzene to give 8.0 g. of product, m.p. 154°-157° dec.

reactant | thiochroman-4-one 1,1-dioxide | 0.05 mole | S1(CCC(C2=CC=CC=C12)=O)(=O)=O | C9H8O3S
reactant | pyrrolidine | 0.075 mole | N1CCCC1 | C4H9N
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 4-(1-Pyrrolidinyl)-2H-1-benzothiopyran 1,1-Dioxide | N1(CCCC1)C1=CCS(C2=C1C=CC=C2)(=O)=O | C13H15NO2S
